US08420812B2
1-Methyl-3-phenyl-5-thiophen-3-ylethynyl-1H-pyrazole
This product was prepared from toluene-4-sulfonic acid 2-methyl-5-phenyl-2H-pyrazol-3-yl ester and 3-ethynyl-thiophene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 95:5; yield (60 mg, 45%); 1H NMR δ (CDCl3): 7.78 (d, J=8.10 Hz, 2H), 7.60 (m, 1H), 7.46-7.29 (m, 4H), 7.22 (m, 1H), 6.77 (s, 1H), 4.05 (s, 3H); LCMS m/z: 264.

reactant | toluene-4-sulfonic acid 2-methyl-5-phenyl-2H-pyrazol-3-yl ester | CN1N=C(C=C1OS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C17H16N2O3S
reactant | 3-ethynyl-thiophene | C(#C)C1=CSC=C1 | C6H4S
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 1-Methyl-3-phenyl-5-thiophen-3-ylethynyl-1H-pyrazole | CN1N=C(C=C1C#CC1=CSC=C1)C1=CC=CC=C1 | C16H12N2S
